US06903101B1
1-Chloro-4-(4-chlorophenylamino)-phthalazine (R. D. Haworth and S. Robinson, J. Chem. Soc. 1948, pp.777-782) (2.00 g; ˜6.12 mmol) can be melted together with one equivalent of 4-mercaptopyridine at about 140° C. for about 10-30 min. to yield a residue which is dissolved in ethyl acetate, washed with aqueous sodium carbonate and then evaporated in vacuo. The residue can be purified by chromatography on silica gel using a gradient of pure methylene chloride to 50% acetone in methylene chloride to yield pure 1-(4-chlorophenylamino)-4-(4-pyridylthio)phthalazine. The intermediate thioether can be stirred as a solution in acetic acid as 30% aqueous hydrogen peroxide is added in small portions until TLC analysis indicates that all starting material has been consumed. The crude product is isolated by dilution with ethyl acetate, washing with aqueous carbonate solution to remove acetic acid and evaporation in vacuo. Pure invention compound can be obtained by chromatography on the residue on silica gel using methylene chloride/acetone gradients.

reactant | 1-Chloro-4-(4-chlorophenylamino)-phthalazine | ˜6.12 mmol, 2.00 g | ClC1=NN=C(C2=CC=CC=C12)NC1=CC=C(C=C1)Cl | C14H9Cl2N3
reactant | 4-mercaptopyridine | one equivalent | SC1=CC=NC=C1 | C5H5NS
solvent | ethyl acetate | C(C)(=O)OCC | C4H8O2
product | 1-(4-chlorophenylamino)-4-(4-pyridylthio)phthalazine | ClC1=CC=C(C=C1)NC1=NN=C(C2=CC=CC=C12)SC1=CC=NC=C1 | C19H13ClN4S
